US09193707B2
5. Synthesis of 2-(benzyloxy)-3-(dimethylamino)benzaldehyde
Into a 250-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed [2-(benzyloxy)-3-(dimethylamino)phenyl]methanol (3.6 g, 13.99 mmol, 1.00 equiv) and DMSO (50 mL). This was followed by the addition of 2-iodoxybenzoic acid (4.31 g, 15.39 mmol, 1.10 equiv) in several batches. The resulting solution was stirred for 2 h at 25° C. The resulting solution was diluted with 200 mL of ethyl acetate. The resulting mixture was washed with 4×50 mL of water. The solids were filtered out. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. This resulted in 3.4 g (95%) of 2-(benzyloxy)-3-(dimethylamino)benzaldehyde as yellow oil. MS (ESI) m/z 256 ([M+H]+).

reactant | [2-(benzyloxy)-3-(dimethylamino)phenyl]methanol | 13.99 mmol, 3.6 g, 1.00 equiv | C(C1=CC=CC=C1)OC1=C(C=CC=C1N(C)C)CO | C16H19NO2
reactant | DMSO | 50 mL | CS(=O)C | C2H6OS
reactant | 2-iodoxybenzoic acid | 15.39 mmol, 4.31 g, 1.10 equiv | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(benzyloxy)-3-(dimethylamino)benzaldehyde | C(C1=CC=CC=C1)OC1=C(C=O)C=CC=C1N(C)C | C16H17NO2
